US08664408B2
Step D: 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide hydrochloride
16.49 kg of 4-{3-[cis-hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide, 16.36 kg of acetone, 6.76 kg of concentrated aqueous hydrochloric acid and 18.96 kg of water are introduced into a reactor. The mixture is stirred and heated at 50° C. for 1 hour. The mixture is then filtered in the hot state into a second reactor containing 57.67 kg of acetone and 1.65 kg of water. The mixture is then brought to reflux and 73.32 kg of acetone are added. Reflux is maintained for 10 minutes and then cooling to 0° C. is carried out. The product is filtered off and the solid obtained is washed with acetone. The product is obtained in the form of a powder in a yield of 85% and with a chemical purity greater than 99%.

reactant | 4-{3-[cis-hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide | 16.49 kg | C1N(C[C@H]2[C@@H]1CCC2)CCCOC2=CC=C(C(=O)N)C=C2 | C17H24N2O2
reactant | acetone | 16.36 kg | CC(=O)C | C3H6O
reactant | hydrochloric acid | 6.76 kg | Cl | ClH
solvent | water | 18.96 kg | O | H2O
product | 4-{3-[cis-Hexahydrocyclopenta[c]pyrrol-2(1H)-yl]propoxy}benzamide hydrochloride | yield of 85% | Cl.C1N(C[C@H]2[C@@H]1CCC2)CCCOC2=CC=C(C(=O)N)C=C2 | InChI=1S/C17H24N2O2.ClH/c18-17(20)13-5-7-16(8-6-13)21-10-2-9-19-11-14-3-1-4-15(14)12-19;/h5-8,14-15H,1-4,9-12H2,(H2,18,20);1H/t14-,15+;
